datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:72][C:61]([S-:10])=[S:62].COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>CC[O:72][C:61]([S:10][CH:20]1[CH:21]=[C:22](C2=CC=C(OC)C=C2)[O:23][C:32]2=[C:31]1C=CC=C2)=[S:62] 10=20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N:63]2[C:62]([C:81]([C-:10](C)C3=CC=CC=C3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>CC1=CC(C)=C([N:63]2[C:62]([C:81]([C:10](C)(C3=CC=CC=C3)[CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]3=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1 10=20;20,21=21,22;22,23=23"
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.[O-:10][C:61]1=[C:62]([N+:63](=[O:64])[O-:74])[CH:83]=[CH:84][CH:85]=[CH:86]1>>C1C[C:21]([CH2:20][O:10][C:61]2=[C:62]([N+:63](=[O:64])[O-:74])[CH:83]=[CH:84][CH:85]=[CH:86]2)=[C:22]([O-:23])[O:33]C1 10=20;20,21=21,22;22,23=23"
"C1CCN(C[C@@H]2CCC[NH:10]2)C1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([NH+:10]1CCC[C@H]1CN1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1CC[C:11]([N:12]2CCOCC2)=[CH:10]C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2CCCC[C:11]2=[N+:12]2CCOCC2)[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:103]=[CH:102]1>>C1C[CH:32]=[CH:31][C:20]1([CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]1)[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:103]=[CH:102]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C3=C(C=CC=C3)[O:62]2)S1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>CC1=CC=[C:10]([F:20])S1.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.FC(F)(F)C1=CC=C([B-:11]2=[O+:12]C3=C(C=CC=C3)[O:62]2)C=C1 10,11=10,20;12=11,12;20,21=21"
"C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.O=C(O)[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>C[C:20](C)([CH:10]1[CH:11]=[NH+:12][C:62]2=[C:61]1[CH:72]=[C:73](C(=O)O)[CH:64]=[CH:63]2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C)[O:12]1.C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[N+]1=C([C:22](=[CH:21][CH:20]([CH2:10]C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.O=C(C1=CC=CC=C1)[CH-:10][N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2>>O=C(C1=CC=CC=C1)[CH:10]([CH:20](C1=CC=CC=C1)[CH:21]=[C:22]=[N-:23])[N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2 10=20;20,21=21,22;22,23=23"
"F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34].O=N[W:11]1234(N=O)([H:10])C5C1C2C3C54>>F[S:32]([CH-:21][CH:20](C1=CC=CC=C1)[H:10])(=[O:33])=[O:34].O=N[W+:11]1234(N=O)C5C1C2C3C54 10,11=10,20;20,21=21"
"CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C1(C)C.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]([C:21]2=[CH:22][N:23](C)C3=C2C=CC=C3)[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)C1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH:10]([S+:11](C)C)[C:61](C3=CC=C(N(C)C)C=C3)=[O:62])[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20"
CC[O:92][C:61]([C-:10](C)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62].[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>CC[O:92][C:61]([C:10](C)([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62] 10=20
